US05521170
The mixture of 1-ethoxycarbonylmethyl-5-{4-[2-(4methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (240 mg), 1N sodium hydroxide aqueous solution (2 ml) and ethanol (5 ml) was stirred for 1 hour at ambient temperature. The reaction was quenched with 1N hydrochloric acid (2 ml) and ethanol was removed. The residue was diluted with ethyl acetate and the solution was washed with brine, and the solution was dried over magnesium sulfate. Filtering and the removal of solvents afforded a crude product. The crude product was triturated with a mixture of diisopropyl ether and diethyl ether (1:1) to give 1-carboxymethyl-5-{4-[2-(4methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (217 mg) as a white powder.

reactant | 1-ethoxycarbonylmethyl-5-{4-[2-(4methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 240 mg | C(C)OC(=O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C34H31N3O5
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-carboxymethyl-5-{4-[2-(4methylphenyl)benzoylamino]benzoyl}-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 217 mg | C(=O)(O)CN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=C(C=C2)C)=O)=O)=O | C32H27N3O5
